US08791132B2
A mixture of 2-bromo-5-methyl-pyridine (250 mg, 1.45 mmol), 5-ethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (391 mg, 1.74 mmol), TBAF.3H2O (1.374 g, 4.36 mmol) and dichloro bistriphenylphosphine palladium(II) (51 mg, 0.072 mmol) was stirred at 85° C. for 10 min. The reaction mixture was poured into water and extracted with EtOAc (3×100 mL). The organic layer was washed with water (3×100 mL), dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography (neutral alumina, eluent-0.5% MeOH in DCM) to yield 2,8-dimethyl-5-(5-methyl-pyridin-2-ylethynyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CDCl3, freebase) δ (ppm): 8.41 (s, 1H), 7.5 (m, 2H), 7.4 (d, 1H), 7.18 (s, 1H), 7.08 (d, 1H), 3.6 (s, 2H), 3.0 (t, 2H), 2.83 (t, 2H), 2.58 (s, 3H), 2.42 (s, 3H), 2.37 (s, 3H).

reactant | 2-bromo-5-methyl-pyridine | 1.45 mmol, 250 mg | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | 5-ethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.74 mmol, 391 mg | C(#C)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C15H16N2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | water | O | H2O
product | 2,8-dimethyl-5-(5-methyl-pyridin-2-ylethynyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)C#CC2=NC=C(C=C2)C)CC1 | C21H21N3
